US06933305B2
To an acetonitrile (75 ml) solution of (S)-4-(tert-butoxycarbonylamino)thiochromane-7-carboxylic acid (1.00 g) and 4-aminopyridine (335 mg) were added triethylamine (1.35 ml) and 2-chloro-1-methylpyridinium iodide (991 mg), and the mixture was stirred at room temperature overnight. Water was added to the reaction mixture and extracted with ethyl acetate. The obtained organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate. The solvent of this solution was evaporated and purified by silica gel column chromatography (chloroform-methanol) to give the objective (S)-4-(tert-butoxycarbonylamino)-N-(4-pyridyl)thiochromane-7-carboxamide (845 mg) as pale yellow crystals.

reactant | acetonitrile | 75 ml | C(C)#N | C2H3N
reactant | (S)-4-(tert-butoxycarbonylamino)thiochromane-7-carboxylic acid | 1.00 g | C(C)(C)(C)OC(=O)N[C@H]1CCSC2=CC(=CC=C12)C(=O)O | C15H19NO4S
reactant | 4-aminopyridine | 335 mg | NC1=CC=NC=C1 | C5H6N2
reactant | 2-chloro-1-methylpyridinium iodide | 991 mg | [I-].ClC1=[N+](C=CC=C1)C
solvent | Water | O | H2O
solvent | triethylamine | 1.35 ml | C(C)N(CC)CC | C6H15N
product | (S)-4-(tert-butoxycarbonylamino)-N-(4-pyridyl)thiochromane-7-carboxamide | 845 mg | C(C)(C)(C)OC(=O)N[C@H]1CCSC2=CC(=CC=C12)C(=O)NC1=CC=NC=C1 | C20H23N3O3S
